US06919334B2
Toluene-4-sulfonic acid 5-nitro-3,4-dihydro-2H-benzo[1,4]oxazin-3-ylmethyl ester
(5-Nitro-3,4-dihydro-2H-benzo[1,4]oxazin-3-yl)-methanol (6.5 g, 31.0 mmole) was dissolved in methylene chloride (200 mL), N, N-diisopropylethylamine (10.8 mL, 62 mmole) and 4-DMAP (1.18 g) were added, followed by p-toluenesulfonyl chloride (12.85 g, 67.4 mmole) and the mixture stirred at room temperature under nitrogen overnight. The mixture was diluted with methylene chloride (100 mL), washed with HCl (1N, 200 mL), saturated sodium bicarbonate (200 mL), saturated sodium chloride (200 mL) and dried (Na2SO4). Filtration, evaporation in vacuum and column chromatography on silica gel with 1:1 hexane/methylene chloride as eluent gave 10.5 g (93%) of the title compound as a yellow solid. 1H NMR (DMSO-d6): δ 8.20 (d, 1H); 7.70 (d, 1H); 7.65 (dd, 1H); 7.40 (d, 2H); 7.05 (dd, 1H); 6.55 (dd, 1H); 4.10 (m, 5H); 2.40 (s, 3H).

reactant | (5-Nitro-3,4-dihydro-2H-benzo[1,4]oxazin-3-yl)-methanol | 31.0 mmole, 6.5 g | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)CO | C9H10N2O4
reactant | N, N-diisopropylethylamine | 62 mmole, 10.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | p-toluenesulfonyl chloride | 67.4 mmole, 12.85 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 1.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic acid 5-nitro-3,4-dihydro-2H-benzo[1,4]oxazin-3-ylmethyl ester | 10.5 g, 93% | [N+](=O)([O-])C1=CC=CC2=C1NC(CO2)COS(=O)(=O)C2=CC=C(C=C2)C | C16H16N2O6S
